US08012956B2
4-(aminocarbonyl)-2-(ethylamino)-5-{[(1R)-1-methylpropyl]amino}benzoic acid
Synthesized according to the method of reagent preparation 50 by using (1R)-1-methylpropylamine in step 1 then following step 2 with the conversion of ethyl 2-bromo-4-cyano-5-{[(1R)-1-methylpropyl]amino}benzoate to ethyl 4-cyano-2-(ethylamino)-5-{[(1R)-1-methylpropyl]amino}benzoate according to the method described in step 1 then proceeding through steps 3 and 4. MS (EI) for C14H21N3O3: 280 (MH+).

reactant | (1R)-1-methylpropylamine | C[C@H](CC)N | C4H11N
reactant | ethyl 2-bromo-4-cyano-5-{[(1R)-1-methylpropyl]amino}benzoate | BrC1=C(C(=O)OCC)C=C(C(=C1)C#N)N[C@@H](CC)C | C14H17BrN2O2
reactant | ethyl 4-cyano-2-(ethylamino)-5-{[(1R)-1-methylpropyl]amino}benzoate | C(#N)C1=CC(=C(C(=O)OCC)C=C1N[C@@H](CC)C)NCC | C16H23N3O2
product | 4-(aminocarbonyl)-2-(ethylamino)-5-{[(1R)-1-methylpropyl]amino}benzoic acid | NC(=O)C1=CC(=C(C(=O)O)C=C1N[C@@H](CC)C)NCC | C14H21N3O3
